US03970693
Twenty-five grams (1.04 moles) of magnesium turnings were placed in a dried flask under N2 with 400 ml. of ether. Ten ml. of 0.05 molar p-methylthiobenzyl magnesium chloride in ether is added and the mixture is warmed to 30°C. About 2 to 3% of 39.7 g. (0.23 moles) of p-methylthiobenzyl chloride in 75 ml. of toluene is added. After 3 to 5 minutes of stirring an exotherm to 32° to 33°C occurs signifying initiation of the reaction. After aging for 5 minutes, the rest of the benzyl chloride is added dropwise over 90 minutes. The reaction is aged for 30 minutes with stirring. 5-Fluoro-2-methyl-1-indanone (32.6 g., 0.199 mole) is added dropwise over 45 minutes. After aging for 30 minutes, the milky supernatant mixture was decanted from the magnesium. The flask and residual magnesium were rinsed with toluene. The reaction is then quenched by the addition of 120 ml. of 3N sulfuric acid. The lower layer is discarded. To the organic layer is added 80 ml. of 1:10 concentrated sulfuric acid, acetic acid and the two-phase mixture, stirred vigorously for 1 hour and water (100 ml.) is added. The bottom layer is discarded and the organic layer is washed with 100 ml. of water and 200 ml. of 2N sodium hydroxide. After a final water wash the organic layer is concentrated to give 5-fluoro-2-methyl-1-(p-methylthiobenzyl)-indene. Similarly, when p-methylsulfinylbenzyl chloride is used in place of p-methylthiobenzyl chloride in the above example, the corresponding p-methylsulfinylbenzyl indene is obtained.

reactant | magnesium | 1.04 moles, Twenty-five grams | [Mg] | Mg
reactant | p-methylthiobenzyl magnesium chloride | 0.05 molar | CSC1=CC=C(C[Mg]Cl)C=C1
reactant | p-methylthiobenzyl chloride | 0.23 moles | CSC1=CC=C(CCl)C=C1 | C8H9ClS
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | 5-Fluoro-2-methyl-1-indanone | 0.199 mole, 32.6 g | FC=1C=C2CC(C(C2=CC1)=O)C | C10H9FO
solvent | ether | CCOCC | C4H10O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-fluoro-2-methyl-1-(p-methylthiobenzyl)-indene | FC=1C=C2C=C(C(C2=CC1)CC1=CC=C(C=C1)SC)C | C18H17FS
